US04906621
A solution of 53.9 g of ethyl N-(ethoxycarbonylmethyl)-N-(ethoxycarbonyl)-β-alaninate in 200 ml of toluene is added dropwise to a stirred solution of potassium hexamethyldisilazide (429 ml, 0,653M) in 125 ml of toluene under nitrogen and cooled to 0°. After 45 minutes at 0°, 21.6 ml of acetic acid is added followed by a solution of 100 g of sodium phosphate (monobasic) in 1 liter of water. The layers are separated, the organic layer is washed with pH 7 buffer, dried over sodium sulfate, filtered, concentrated and purified by flash chromatography using ethyl acetate/hexane (3:7) to yield ethyl 1-ethoxycarbonyl-3-oxo-pyrrolidine-2-carboxylate.

reactant | ethyl N-(ethoxycarbonylmethyl)-N-(ethoxycarbonyl)-β-alaninate | 53.9 g | C(C)OC(=O)CN(CCC(=O)OCC)C(=O)OCC | C12H21NO6
reactant | potassium hexamethyldisilazide | 0,653M, 429 ml | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | acetic acid | 21.6 ml | C(C)(=O)O | C2H4O2
reactant | sodium phosphate | 100 g | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 liter | O | H2O
product | ethyl 1-ethoxycarbonyl-3-oxo-pyrrolidine-2-carboxylate | C(C)OC(=O)N1C(C(CC1)=O)C(=O)OCC | C10H15NO5
